US07018988B2
(2S,4EZ)-1-benzoyl-4-(cyanomethylene)-N-(1-naphthylmethyl)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(cyanomethylene)-2-pyrrolidinecarboxylic acid, benzoyl chloride, and 1-naphthylmethylamine the title compound was obtained in 43% purity by LC/MS. MS(ESI+): m/z=396.0.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(cyanomethylene)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=CC#N)C(=O)O | C12H16N2O4
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 1-naphthylmethylamine | C1(=CC=CC2=CC=CC=C12)CN | C11H11N
product | (2S,4EZ)-1-benzoyl-4-(cyanomethylene)-N-(1-naphthylmethyl)-2-pyrrolidinecarboxamide | C(C1=CC=CC=C1)(=O)N1[C@@H](CC(C1)=CC#N)C(=O)NCC1=CC=CC2=CC=CC=C12 | C25H21N3O2
